.subckt aoi22_x1 A1 A2 B1 B2 X VDD VSS
XMNA10 X A1 aoi22_nsa VSS nmos w=1u l=100n
XMNA20 aoi22_nsa A2 VSS VSS nmos w=1u l=100n
XMNB10 X B1 aoi22_nsb VSS nmos w=1u l=100n
XMNB20 aoi22_nsb B2 VSS VSS nmos w=1u l=100n
XMPA10 aoi22_n1 A1 VDD VDD pmos w=2u l=100n
XMPA20 aoi22_n1 A2 VDD VDD pmos w=2u l=100n
XMPB10 X B1 aoi22_n1 VDD pmos w=2u l=100n
XMPB20 X B2 aoi22_n1 VDD pmos w=2u l=100n
.ends aoi22_x1
