.subckt isos0cl1_x1 VDD VSS VDDR VBP VBN X A EN0
* Power-management helper: ref_lib-style rails listed first.
XR2P1 p_nor2_mid A VDDR VBP pmos w=2u l=100n
XR2P2 n_or EN0 p_nor2_mid VBP pmos w=2u l=100n
XR2N1 n_or A VSS VBN nmos w=1u l=100n
XR2N2 n_or EN0 VSS VBN nmos w=1u l=100n
XI4P X n_or VDDR VBP pmos w=2u l=100n
XI4N X n_or VSS VBN nmos w=1u l=100n
.ends isos0cl1_x1
